US06248739B1
N-(4-Chlorobenzyl)-1-[2-(diethylamino)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5 (0.616 g) is dissolved in DMF (4 mL), and K2CO3 (0.93 g, 6.72 mmol) and 2-bromo-N,N-diethylethylamine hydrobromide (0.88 g, 3.35 mmol) are added. The reaction mixture is heated to 90° C. for 16. The mixture is partitioned between CHCl3 and water. The organic layer is concentrated in vacuo to give an oil. Column chromatography (elution with 1-5% MeOH/CHCl3) gave 0.10 g of a brown oil. Crystallization from ethyl acetate/hexane gave 0.013 g of the title compound as a solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | K2CO3 | 6.72 mmol, 0.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromo-N,N-diethylethylamine hydrobromide | 3.35 mmol, 0.88 g | Br.BrCCN(CC)CC
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-[2-(diethylamino)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.10 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCN(CC)CC)C=C1 | C26H28ClN3O3
